US07727979B2
3-(3-chloro-2-oxo-cyclohexyl)-propionitrile (Starting Product for Example C-24)
The chlorination of 2-oxo-1-cyclohexanepropionitrile takes place in a manner similar to that described above for the preparation of 2-tert-butyl-6-chloro-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 2-oxo-1-cyclohexanepropionitrile | O=C1C(CCCC1)CCC#N | C9H13NO
reactant | 2-tert-butyl-6-chloro-cyclohexanone | C(C)(C)(C)C1C(C(CCC1)Cl)=O | C10H17ClO
product | 3-(3-chloro-2-oxo-cyclohexyl)-propionitrile | ClC1C(C(CCC1)CCC#N)=O | C9H12ClNO
